US04654342
6-[4-(N3 -Methyl-N2 -cyanoguanidino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
To a solution of N-cyano-N1 -methyl-O-phenylisourea (0.175 g) in anhydrous pyridine (3 ml) was added 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone (0.2 g). The mixture was stirred at room temperature for 3 hours, stirred under reflux for 4 hours and allowed to cool overnight. This mixture was evaporated under reduced pressure to give a solid which was triturated with diethyl ether to remove phenol. Thin layer chromatography indicated the presence of unreacted starting-material and the title compound.

reactant | N-cyano-N1 -methyl-O-phenylisourea | 0.175 g | C(#N)N(C(OC1=CC=CC=C1)=N)C | C9H9N3O
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.2 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 6-[4-(N3 -Methyl-N2 -cyanoguanidino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | CNC(NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)=NC#N | C14H16N6O
